US08808784B2
High Palmitic Methyl Ester
20 kilograms of palm stearin (available from Felda IFFCO, Cincinnati, Ohio) are placed in a 30 liter reaction vessel equipped with a stirrer and reflux condenser and reacted with 5375 grams of methanol using 226.6 grams of sodium methoxide as catalyst. The mixture is stirred at 65° C. for 6 hours; methanol is allowed to reflux. The reaction mixture is then allowed to rest without stirring until the glycerin byproduct settles to the bottom of the vessel. The glycerin layer is then removed and the methyl ester layer is washed with 10% water by weight of the methyl ester at 30° C. to remove residual methanol, catalyst, soap and any remaining glycerin. The wash process is repeated two additional times. The methyl esters are then dried under vacuum (25 mm Hg) at 95° C. The methyl esters are then distilled in a wiped film evaporator at 195° C. and ˜1 mm Hg absolute pressure to separate the methyl esters from any un-reacted glycerides. The methyl esters have the following fatty acid composition:

reactant | stearin | CCCCCCCCCCCCCCCCCC(=O)OCC(COC(=O)CCCCCCCCCCCCCCCCC)OC(=O)CCCCCCCCCCCCCCCCC | C57H110O6
reactant | methanol | CO | CH4O
catalyst | methanol | 5375 grams | CO | CH4O
catalyst | sodium methoxide | C[O-].[Na+]
solvent | glycerin | OCC(O)CO | C3H8O3
product | Palmitic Methyl Ester | COC(CCCCCCCCCCCCCCC)=O | C17H34O2
